US06048823
Preparation of 3-(2,4-dichlorophenyl)-6-methyl-2(1H)-pyridone
α-(2,4-dichlorophenyl)-α-hydroxymethylene acetonitrile and 8.8 g of acetone were thoroughly mixed with 110 g of polyphosphoric acid, and the mixture was heated to about 130° C. At this temperature, an exothermic reaction started. The temperature was maintained from 130 to 140° C. for 30 minutes, while heating as the case required. The cooled mixture was poured into ice water, and this suspension was stirred for 18 hours. This crude product was stirred with ethyl acetate and an excess amount of a dilute aqueous potassium hydroxide solution to make it alkaline. The formed precipitate was collected by filtration and washed sequentially with water, ethyl acetate and diethyl ether to obtain 8.0 g (yield: 45%) of the desired product. Melting point: 266-268° C.

reactant | α-(2,4-dichlorophenyl)-α-hydroxymethylene acetonitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)=CO | C9H5Cl2NO
reactant | acetone | 8.8 g | CC(=O)C | C3H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2,4-dichlorophenyl)-6-methyl-2(1H)-pyridone | 8.0 g, yield: 45% | ClC1=C(C=CC(=C1)Cl)C=1C(NC(=CC1)C)=O | C12H9Cl2NO
